US09212174B2
(2R,5R)-5-t-Butoxycarbonyloxymethyl-5-ethynyl-2-(thymin-1-yl)-2,5-dihydrofuran (5 g) was added to a glass reactor under nitrogen, and methanol (150 g) and potassium carbonate (9.9 g) were added. The mixture was stirred at 37° C. for 4 hours. The reaction mixture was concentrated and dissolved in water. Aqueous sodium hydroxide and toluene were added to the solution under stirring for phase separation, and hydrochloric acid and methyl ethyl ketone were added to the aqueous layer, followed by stirring for further phase separation. The thus-separated organic layer was concentrated, and the residue was purified through recrystallization from ethanol and heptane, to thereby yield 3.2 g of 4′-ethynyl-2′,3′-didehydro-3′-deoxythymidine (yield: 91%, β/α=>99/1). The 1H-NMR data of the compound are the same as those of the compound produced in Example 3.

reactant | (2R,5R)-5-t-Butoxycarbonyloxymethyl-5-ethynyl-2-(thymin-1-yl)-2,5-dihydrofuran | 5 g | C(C)(C)(C)OC(=O)OC[C@@]1(C=C[C@@H](O1)N1C(=O)NC(=O)C(C)=C1)C#C | C17H20N2O6
reactant | potassium carbonate | 9.9 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 150 g | CO | CH4O
product | 4′-ethynyl-2′,3′-didehydro-3′-deoxythymidine | yield 3.2 g, yield: 91% | C(#C)[C@]1(C=C[C@@H](O1)N1C(=O)NC(=O)C(C)=C1)CO | C12H12N2O4
